US08115014B2
4-(pentafluorophenyl)buta-3-in-1-ol
To a solution of 1-bromo-2,3,4,5,6-pentafluorobenzene (50 g) in triethylamine (200 mL), 3-butyn-1-ol (15 g), triphenylphosphine (2.7 g), dichlorobistriphenylphosphinepalladium (3.6 g) and copper (I) iodide (1.9 g) were added, followed by stirring at 80° C. for 16 hours. The reaction mixture was cooled to room temperature, and tert-butyl methyl ether (500 mL) was added thereto, followed by stirring at 0° C. for 30 minutes. The reaction mixture was filtered through “Celite” (registered trademark), and the filtrate was concentrated. The resulting residue was purified by flash column chromatography (hexane:ethyl acetate=95:5→65:35) to give the title compound (43 g) having the following physical properties.

reactant | 1-bromo-2,3,4,5,6-pentafluorobenzene | 50 g | BrC1=C(C(=C(C(=C1F)F)F)F)F | C6BrF5
reactant | 3-butyn-1-ol | 15 g | C(CC#C)O | C4H6O
reactant | tert-butyl methyl ether | 500 mL | COC(C)(C)C | C5H12O
solvent | triethylamine | 200 mL | C(C)N(CC)CC | C6H15N
catalyst | copper (I) iodide | 1.9 g | [Cu]I
catalyst | triphenylphosphine | 2.7 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | 4-(pentafluorophenyl)buta-3-in-1-ol | 43 g | FC1=C(C(=C(C(=C1C#CCCO)F)F)F)F | C10H5F5O
